US04442126
(d) 2-Dipropylamino-5-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide
7 g of 2-dipropylamino-6-hydroxy-5-nitro-1,2,3,4-tetrahydronaphthalene hydrobromide are suspended in 250 ml of ethanol and hydrogenation is carried out at ambient temperature, in the presence of 1 g of 5% palladium-on-charcoal, under a pressure of about 0.3 MPa. The solvent is then evaporated off and the residue is triturated in diethyl ether. The product obtained melts at 215°-218° C. (with decomposition).

reactant | 2-dipropylamino-6-hydroxy-5-nitro-1,2,3,4-tetrahydronaphthalene hydrobromide | 7 g | Br.C(CC)N(C1CC2=CC=C(C(=C2CC1)[N+](=O)[O-])O)CCC
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
product | 2-Dipropylamino-5-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.C(CC)N(C1CC2=CC=C(C(=C2CC1)N)O)CCC | InChI=1S/C16H26N2O.BrH/c1-3-9-18(10-4-2)13-6-7-14-12(11-13)5-8-15(19)16(14)17;/h5,8,13,19H,3-4,6-7,9-11,17H2,1-2H3;1H
